US05646308
A mixture of 158 mg of 2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide, 157 mg of 2-chloro-1-methylpyridinium iodide, 172 μl of triethylamine and 4 ml of dried tetrahydrofuran was refluxed with heating for 3 hours. The mixture was cooled to room temperature and to the resultant mixture were added 34 mg of cyanamide and 25 mg sodium hydride (60%) and the mixture was refluxed with heating for 4 hours. Ice water was added to the reaction product and it was extracted with ethyl acetate. An organic layer was washed with water and dried, and the solvent was distilled. The resultant residue was purified according to silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 20 mg of N-cyano-2-methoxymethyl-N',2-dimethyl-6-nitro-2H-1-benzopyran-4-amidine with a melting point of 121°-125° C. by recrystallization from ethyl acetate.

reactant | 2-methoxymethyl-N,2-dimethyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 158 mg | COCC1(OC2=C(C(=C1)C(NC)=S)C=C(C=C2)[N+](=O)[O-])C | C14H16N2O4S
reactant | 2-chloro-1-methylpyridinium iodide | 157 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | cyanamide | 34 mg | N#CN | CH2N2
reactant | sodium hydride | 25 mg | [H-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 172 μl | C(C)N(CC)CC | C6H15N
product | N-cyano-2-methoxymethyl-N',2-dimethyl-6-nitro-2H-1-benzopyran-4-amidine | 20 mg | C(#N)NC(=NC)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)COC | C15H16N4O4
